US07241785B2
To a solution of 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (433 mg) and methyl 3-[4-phenyl-2-[N-(1-propyl)amino]-5-thiazolyl]propionate (400 mg) in N,N-dimethylformamide (5 ml) was added sodium hydride (60% in oil, 55.2 mg) at 0° C. and the mixture was stirred at said temperature for 1 hr. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl 3-[2-[N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-N-(1-propyl)amino]-4-phenyl-5-thiazolyl]propionate (595 mg, yield 78%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 433 mg | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | methyl 3-[4-phenyl-2-[N-(1-propyl)amino]-5-thiazolyl]propionate | 400 mg | C1(=CC=CC=C1)C=1N=C(SC1CCC(=O)OC)NCCC | C16H20N2O2S
reactant | sodium hydride | 55.2 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | methyl 3-[2-[N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-N-(1-propyl)amino]-4-phenyl-5-thiazolyl]propionate | 595 mg, yield 78% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN(CCC)C=2SC(=C(N2)C2=CC=CC=C2)CCC(=O)OC)C=C1 | C34H35N3O4S
